US07745414B2
4-Cyclopropyl-phenylboronic acid
2.5 M nButyllithium in hexane (14.5 mL) is added dropwise to 1-bromo-4-cyclopropyl-benzene (5.92 g) in THF (14 mL) and toluene (50 mL) chilled to −70° C. The resultant solution is stirred at −70° C. for 30 min before triisopropyl borate (8.5 mL) is added. The solution is warmed to −20° C. and then treated with 4 M aqueous hydrochloric acid (15.5 mL). The reaction mixture is further warmed to room temperature and then the organic phase is separated. The aqueous phase is extracted with ethyl acetate and the combined organic phases are dried (sodium sulphate). The solvent is evaporated and the residue is washed with a mixture of ether and cyclohexane to give the product as a colorless solid.

reactant | 1-bromo-4-cyclopropyl-benzene | 5.92 g | BrC1=CC=C(C=C1)C1CC1 | C9H9Br
reactant | triisopropyl borate | 8.5 mL | B(OC(C)C)(OC(C)C)OC(C)C | C9H21BO3
reactant | hydrochloric acid | 4 M, 15.5 mL | Cl | ClH
solvent | hexane | 14.5 mL | CCCCCC | C6H14
solvent | THF | 14 mL | C1CCOC1 | C4H8O
solvent | toluene | 50 mL | C1(=CC=CC=C1)C | C7H8
product | 4-Cyclopropyl-phenylboronic acid | C1(CC1)C1=CC=C(C=C1)B(O)O | C9H11BO2
